US04772631
A mixture of resorcinol (88 g), 1,2-dibromoethane (180 g) and potassium hydroxide (44.8 g) was stirred under reflux in methanol (600 ml) for 24 hours. The reaction mixture was cooled. The residual solid was removed by filtration and the filtrate was evaporated to give 3-(2-bromoethoxy)phenol as an oil which was essentially pure as indicated by thin layer chromatography (tlc) [using silica plates and 10% v/v methanol in dichloromethane as eluant] and was used without purification.

reactant | resorcinol | 88 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 1,2-dibromoethane | 180 g | BrCCBr | C2H4Br2
reactant | potassium hydroxide | 44.8 g | [OH-].[K+]
solvent | methanol | 600 ml | CO | CH4O
product | 3-(2-bromoethoxy)phenol | BrCCOC=1C=C(C=CC1)O | C8H9BrO2
